US09315495B2
To a solution of thiophene (300 mg, 3.57 mmol) in anhydrous 10% hexamethylphosphoramide in tetrahydrofuran (33 mL) under argon at −78° C. was added n-butyllithium (1.57 mL, 2.5 M in hexanes) dropwise. After stirring at −78° C. for 1 hour, 1-chloro-3,3-dimethylbutane (430 mg, 3.57 mmol) was added dropwise and the resulting solution allowed to warm to room temperature over 3 hours. The reaction mixture was re-cooled to −78° C., a second portion of n-butyllithium (1.78 mL, 4.46 mmol) was added dropwise over 5 minutes and the mixture was stirred for 1 hour at −78° C. before anhydrous dimethylformamide (1.38 mL, 17.8 mmol) was added dropwise and the resulting mixture allowed to warm to room temperature. The reaction mixture was poured into 1 N hydrochloric acid (150 mL) and organics were extracted with ether (3×100 mL), dried with magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography on silica gel with gradient elution (5%→20% ethyl acetate in hexanes) to give 5-(3,3-dimethylbutyl)thiophene-2-carbaldehyde (130 mg, 19%). Used without further characterization.

reactant | thiophene | 3.57 mmol, 300 mg | S1C=CC=C1 | C4H4S
reactant | n-butyllithium | 2.5 M, 1.57 mL | C(CCC)[Li]
reactant | 1-chloro-3,3-dimethylbutane | 3.57 mmol, 430 mg | ClCCC(C)(C)C | C6H13Cl
reactant | n-butyllithium | 4.46 mmol, 1.78 mL | C(CCC)[Li]
reactant | dimethylformamide | 17.8 mmol, 1.38 mL | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 1 N, 150 mL | Cl | ClH
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | tetrahydrofuran | 33 mL | O1CCCC1 | C4H8O
product | 5-(3,3-dimethylbutyl)thiophene-2-carbaldehyde | 130 mg, 19% | CC(CCC1=CC=C(S1)C=O)(C)C | C11H16OS
